US07144913B2
(+)-{9-[(4-chlorophenyl)thio]-6-fluoro-8-thien-3-yl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl}acetic acid
Starting from (+)-methyl{8-bromo-9-[(4-chlorophenyl)thio]-6-fluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl}acetate and tributyl(thien-3-yl)stannane, the title compound was synthesized following the procedures described in Example 42 and Step 10 of Example 7.

reactant | (+)-methyl{8-bromo-9-[(4-chlorophenyl)thio]-6-fluoro-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl}acetate | CC(C(=O)[O-])C1CCN2C1=C(C=1C(=CC(=CC21)F)Br)SC2=CC=C(C=C2)Cl
reactant | tributyl(thien-3-yl)stannane | C(CCC)[Sn](C1=CSC=C1)(CCCC)CCCC
product | (+)-{9-[(4-chlorophenyl)thio]-6-fluoro-8-thien-3-yl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl}acetic acid | ClC1=CC=C(C=C1)SC1=C2N(C=3C=C(C=C(C13)C1=CSC=C1)F)CCC2CC(=O)O | C23H17ClFNO2S2
